### PR TITLE
feat(CombinatoryLogic): add Church-encoded list infrastructure for SKI terms

### PR DESCRIPTION
**Pull request by jessealama**
Adds Church-encoded list operations (nil, cons, head, tail) for SKI combinatory logic, along with conversions to/from Church numerals and helper combinators (PrependZero, SuccHead).

Head is defined via a general HeadD that takes an arbitrary default value; Head specializes to default 0.

This is a stepping stone toward proving the equivalence of SKI combinatory logic with Mathlib's Turing machines.

### CODE REVIEW

File: Cslib/Languages/CombinatoryLogic/List.lean [hunk 1]
```diff
@@ -0,0 +1,272 @@
...
+/-- `toChurch ns` correctly represents `ns`. -/
+@[grind .] theorem toChurch_correct (ns : List ℕ) : IsChurchList ns (toChurch ns) := by
+  induction ns with
+  | nil => exact nil_correct
+  | cons x xs ih => exact cons_correct (SKI.toChurch_correct x) ih
+
+/-! ### Head: Extract the head of a list -/
+
+/-- head = λ xs. xs K 0 (returns 0 for empty list) -/
+def HeadPoly : SKI.Polynomial 1 := &0 ⬝' K ⬝' SKI.Zero
```
Comment (thomaskwaring) [inline Cslib/Languages/CombinatoryLogic/List.lean]: Might be an unnecessary generalisation, but this (and the following) could be done equally for any other default value no?

File: Cslib/Languages/CombinatoryLogic/Basic.lean [hunk 2]
```diff
@@ -279,11 +287,11 @@ theorem isBool_trans (u : Bool) (a a' : SKI) (h : a ↠ a') (ha' : IsBool u a')
 
 /-- Standard true: TT := λ x y. x -/
 def TT : SKI := K
-theorem TT_correct : IsBool true TT := fun x y ↦ MRed.K x y
+@[grind .] theorem TT_correct : IsBool true TT := fun x y ↦ MRed.K x y
```
Comment (thomaskwaring) [inline Cslib/Languages/CombinatoryLogic/Basic.lean]: Do these `grind`s need to be scoped? (Correct me if that's automatic.)

**Review by thomaskwaring — APPROVED** [review]
Looks great to me :-)

File: Cslib/Languages/CombinatoryLogic/Basic.lean (hunk 2 above)
Comment (chenson2018) [reply Cslib/Languages/CombinatoryLogic/Basic.lean]: You are right, `scoped` needs to be added manually.

I'd also ask for two other small changes to the `grind` annotations:
- style nitpick: it's more common for the attribute to be on the line before the theorem
- I haven't looked closely, but there's a lot of `grind .` rules. Can any of these be more specific? This can have performance implications. Even `grind! .` can be a bit better I think.

Comment (jessealama) [reply Cslib/Languages/CombinatoryLogic/Basic.lean]: Good point. I was being aggressive with the `grind` annotations here. I've reduced the scope for a most theorems, as well as marking the conditional `grind`s with `→`.

File: Cslib/Languages/CombinatoryLogic/List.lean (hunk 1 above)
Comment (jessealama) [reply Cslib/Languages/CombinatoryLogic/List.lean]: Good point, thanks! I've generalized things a bit.

**Review by thomaskwaring — APPROVED** [review]
looks good to me!

File: Cslib/Languages/CombinatoryLogic/List.lean [hunk 3]
```diff
@@ -0,0 +1,282 @@
...
+    (hcns' : IsChurchList ns cns') : IsChurchList ns cns := by
+  match ns with
+  | [] =>
+    intro c n
+    exact Trans.trans (parallel_mRed (MRed.head c h) .refl) (hcns' c n)
+  | x :: xs =>
+    intro c n
+    obtain ⟨cx, cxs, hcx, hcxs, hred⟩ := hcns' c n
+    exact ⟨cx, cxs, hcx, hcxs,
+      Trans.trans (parallel_mRed (MRed.head c h) .refl) hred⟩
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/List.lean]: This fits on one line.

File: Cslib/Languages/CombinatoryLogic/List.lean [hunk 4]
```diff
@@ -0,0 +1,282 @@
...
+
+/-- The SKI term for the empty list. -/
+def Nil : SKI := NilPoly.toSKI
+
+/-- Reduction: `Nil ⬝ c ⬝ n ↠ n`. -/
+theorem nil_def (c n : SKI) : (Nil ⬝ c ⬝ n) ↠ n :=
+  NilPoly.toSKI_correct [c, n] (by simp)
+
+/-- The empty list term correctly represents `[]`. -/
+theorem nil_correct : IsChurchList [] Nil := fun c n => nil_def c n
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/List.lean]: This can be eta reduced:

```suggestion
theorem nil_correct : IsChurchList [] Nil := nil_def
```

File: Cslib/Languages/CombinatoryLogic/List.lean [hunk 5]
```diff
@@ -0,0 +1,282 @@
...
+    intro c n
+    exact Trans.trans (parallel_mRed (MRed.head c h) .refl) (hcns' c n)
+  | x :: xs =>
+    intro c n
+    obtain ⟨cx, cxs, hcx, hcxs, hred⟩ := hcns' c n
+    exact ⟨cx, cxs, hcx, hcxs,
+      Trans.trans (parallel_mRed (MRed.head c h) .refl) hred⟩
+
+/-- Both components of a pair are Church lists. -/
+def IsChurchListPair (prev curr : List ℕ) (p : SKI) : Prop :=
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/List.lean]: Could you make this a structure? Like:
```lean
structure IsChurchListPair (prev curr : List ℕ) (p : SKI) : Prop where
  fst : IsChurchList prev (Fst ⬝ p)
  snd : IsChurchList curr (Snd ⬝ p)
```
All the proofs will work without any changes, but there are some advantages such as `exact?` working better.

File: Cslib/Languages/CombinatoryLogic/List.lean [hunk 6]
```diff
@@ -0,0 +1,282 @@
...
+
+/-- The canonical SKI term for a Church-encoded list. -/
+def toChurch : List ℕ → SKI
+  | [] => Nil
+  | x :: xs => Cons ⬝ (SKI.toChurch x) ⬝ (toChurch xs)
+
+/-- `toChurch [] = Nil`. -/
+@[simp]
+lemma toChurch_nil : toChurch [] = Nil := rfl
+/-- `toChurch (x :: xs) = Cons ⬝ SKI.toChurch x ⬝ toChurch xs`. -/
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/List.lean:114]: Missing a line break here.

File: Cslib/Languages/CombinatoryLogic/List.lean [hunk 7]
```diff
@@ -0,0 +1,282 @@
...
+theorem tailFold_correct (ns : List ℕ) (cns : SKI) (hcns : IsChurchList ns cns) :
+    ∃ p, (cns ⬝ TailStep ⬝ (MkPair ⬝ Nil ⬝ Nil)) ↠ p ∧
+         IsChurchListPair ns.tail ns p := by
+  induction ns generalizing cns with
+  | nil =>
+    -- For empty list, the fold returns the initial pair
+    use MkPair ⬝ Nil ⬝ Nil
+    constructor
+    · exact hcns TailStep (MkPair ⬝ Nil ⬝ Nil)
+    · simp only [List.tail_nil]
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/List.lean]: This `simp` is not needed.

File: Cslib/Languages/CombinatoryLogic/List.lean [hunk 8]
```diff
@@ -0,0 +1,282 @@
...
+      exact tail_init
+  | cons x xs ih =>
+    -- For x :: xs, first fold xs, then apply step
+    -- cns ⬝ TailStep ⬝ init ↠ TailStep ⬝ cx ⬝ (cxs ⬝ TailStep ⬝ init)
+    simp only [List.tail_cons]
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/List.lean]: Same here, though if you want to leave it for the explanation to make sense, that is fine by me.

File: Cslib/Languages/CombinatoryLogic/List.lean [hunk 9]
```diff
@@ -0,0 +1,282 @@
...
+def SuccHead : SKI := B ⬝ (C ⬝ Cons ⬝ Nil) ⬝ (B ⬝ SKI.Succ ⬝ Head)
+
+/-- `SuccHead` correctly computes a singleton containing `succ(head ns)`. -/
+theorem succHead_correct (ns : List ℕ) (cns : SKI) (hcns : IsChurchList ns cns) :
+    IsChurchList [ns.headD 0 + 1] (SuccHead ⬝ cns) := by
+  have hhead := head_correct ns cns hcns
+  have hsucc := succ_correct (ns.headD 0) (Head ⬝ cns) hhead
+  apply isChurchList_trans
+    (Trans.trans (B_tail_mred _ _ _ _ (B_def SKI.Succ Head cns))
+                 (C_def Cons Nil _))
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/List.lean]: This fits on one line if you make use of namespaces.
```suggestion
  apply isChurchList_trans (.trans (B_tail_mred _ _ _ _ (B_def .Succ Head cns)) (C_def Cons Nil _))
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]
Some small style reviews, but this looks good to me.

**Comment by jessealama** [comment]
> Some small style reviews, but this looks good to me.

Thank you! I took a look. Nice idea about the structure for Church pair verification.

**Review by chenson2018 — APPROVED** [review]
